US05846982
5-cyano-3-(piperidin-4-yl)-1H-indole
A mixture of 0.92 gm (2.9 mMol) 5-cyano-3-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole, 1.85 gm (29.3 mMol) ammonium formate and 0.26 gm 5% palladium on carbon in 40 mL methanol were stirred at reflux for 45 minutes. The reaction mixture was then filtered through a pad of Celite and the filtrate concentrated under reduced pressure. The residue was subjected to flash silica gel chromatography, eluting with dichloromethane containing 20% methanol and 2% ammonium hydroxide. Fractions shown to contain product were combined and concentrated under reduced pressure to give 0.36 gm (55%) of the title compound.

reactant | 5-cyano-3-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 2.9 mMol, 0.92 gm | C(#N)C=1C=C2C(=CNC2=CC1)C=1CCN(CC1)CC1=CC=CC=C1 | C21H19N3
reactant | ammonium formate | 29.3 mMol, 1.85 gm | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 0.26 gm | [Pd] | Pd
solvent | methanol | 40 mL | CO | CH4O
product | 5-cyano-3-(piperidin-4-yl)-1H-indole | 0.36 gm, 55% | C(#N)C=1C=C2C(=CNC2=CC1)C1CCNCC1 | C14H15N3
